US04129737
5.6 g. of 2-chloro-5-oxo-6-carbethoxy-8-ethyl-5,8-dihydro-pyrido(2,3-d)pyrimidine, 5.2 g. of 1-β-hydroxyethyl piperazine and 50 cm3 of toluene are heated under reflux for 2 hours. After cooling, the solution is filtered to remove the hydrochloride which has precipitated, and the organic solution is diluted with its own volume of chloroform, is washed with water and dried (MgSO4). After evaporation, the residue is recrystallised from 40 cm3 of a mixture of isopropanol (1 volume) and isopropyl ether (2 volumes). 5.14 g. (68%) of 2-(4'-β-hydroxyethyl-piperazino)-5-oxo-6-carbethoxy-8-ethylpyrido(2,3-d)pyrimidine are obtained; melting point 172° C.

reactant | 2-chloro-5-oxo-6-carbethoxy-8-ethyl-5,8-dihydro-pyrido(2,3-d)pyrimidine | ClC=1N=CC2=C(N1)N(C=C(C2=O)C(=O)OCC)CC | C12H12ClN3O3
reactant | 1-β-hydroxyethyl piperazine | OCCN1CCNCC1 | C6H14N2O
solvent | toluene | 50 cm3 | C1(=CC=CC=C1)C | C7H8
product | 2-(4'-β-hydroxyethyl-piperazino)-5-oxo-6-carbethoxy-8-ethylpyrido(2,3-d)pyrimidine | 68% | OCCN1CCN(CC1)C=1N=CC2=C(N1)N(C=C(C2=O)C(=O)OCC)CC | C18H25N5O4
